US04190431
1-Ethyl-3-(4'-chlorophenyl)-3-hydroxyurea (8.0 g; 0.037 mole) prepared above was dissolved in cooled (10° C.) 2 N aqueous sodium hydroxide (21 ml.). Ethyl chloroformate (3.9 ml; 0.041 mole) was added dropwise at 10°-15° C. with stirring and the stirring was continued for about 1/2 hour after addition was completed. The desired compound precipitated as formed and was removed by filtration, washed with water, air dried, and recrystallized from methanol to yield solid 2-(4'-chlorophenyl)-4-ethyl-1,2,4-oxadiazolidine-3,5-dione as tan needle-like crystals melting 84°-86° C. and having the following elemental analysis as calculated for C10H9ClN2O3 :

reactant | 1-Ethyl-3-(4'-chlorophenyl)-3-hydroxyurea | 0.037 mole, 8.0 g | C(C)NC(=O)N(O)C1=CC=C(C=C1)Cl | C9H11ClN2O2
reactant | sodium hydroxide | 2 N, 21 ml | [OH-].[Na+]
reactant | Ethyl chloroformate | 0.041 mole, 3.9 ml | ClC(=O)OCC | C3H5ClO2
product | 2-(4'-chlorophenyl)-4-ethyl-1,2,4-oxadiazolidine-3,5-dione | ClC1=CC=C(C=C1)N1OC(N(C1=O)CC)=O | C10H9ClN2O3
